US08957070B2
N-(2-Ethoxyethyl)-N-[2-(5-{[(2-hydroxyethyl)thio]methyl}-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A solution (2 mL) of N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-ethoxyethyl)thiophene-2-sulfonamide (18 mg) and triethylamine (14 mg), 2-mercaptoethanol (10 mg) in N,N-dimethylformamide was stirred at room temperature for 18 hr. The reaction mixture was diluted with water, and extracted with ethyl acetate. The extract was concentrated, and the residue was purified by preparative HPLC to give the title compound (5.9 mg, yield 30%).

reactant | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-ethoxyethyl)thiophene-2-sulfonamide | 2 mL, 18 mg | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)CCOCC | C20H20ClN3O3S3
reactant | triethylamine | 14 mg | C(C)N(CC)CC | C6H15N
reactant | 2-mercaptoethanol | 10 mg | SCCO | C2H6OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(2-Ethoxyethyl)-N-[2-(5-{[(2-hydroxyethyl)thio]methyl}-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 5.9 mg, yield 30% | C(C)OCCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CSCCO | C22H25N3O4S4
